US07256198B2
Step 3: 8-({(2S)-2-[(4-Methoxyphenoxy)methyl]pyrrolidin-1-yl}sulfonyl)-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To a solution of 4-methoxy-phenol (0.420 mmol) in THF (3 mL) was added NaH (60% dispersion in mineral oil) (0.015 g, 0.063 mmol) and the reaction was stirred at rt for 1 hr. {(2S)-1-[(3′,3′-Dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate (0.12 g, 0.21 mmol) in THF (2 mL)/DMF (2 mL) was then added and the reaction heated overnight at 100° C. The reaction was quenched with water and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered, concentrated and purified on Biotage Si 12+M cartridge silica gel eluting with acetone/hexane (30/70). The resulting product was dissolved in CH2Cl2 (3 mL) and methanesulfonic acid (2 mL) was added and the solution was stirred at 50° C. overnight. The reaction mixture was poured onto ice, basified to pH 11 with ammonium hydroxide and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered, concentrated and purified on Biotage Si 12+M cartridge silica gel eluting with acetone/hexane (30/70) to give the title compound as a light yellow foam (0.031 g, 38%). NMR (400 Mz, DMSO-d6): consistent. MS: (ESI+) m/z 484.1 [M+H].

reactant | 4-methoxy-phenol | 0.420 mmol | COC1=CC=C(C=C1)O | C7H8O2
reactant | NaH | 0.063 mmol, 0.015 g | [H-].[Na+]
reactant | {(2S)-1-[(3′,3′-Dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate | 0.21 mmol, 0.12 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CC(CN4)(C)C)OCCCO3 | C28H35N3O7S2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 8-({(2S)-2-[(4-Methoxyphenoxy)methyl]pyrrolidin-1-yl}sulfonyl)-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.031 g, 38% | COC1=CC=C(OC[C@H]2N(CCC2)S(=O)(=O)C2=CC=3C(C=4N(C3C=C2)CC(CN4)(C)C)=O)C=C1 | C25H29N3O5S
